US03989825
sodium 4-(1-phenyl-1-methylethyl)phenyl 1-naphthyl phosphate
disodium salt of 4-dihydroxyphosphinyloxyphenyl 4-(1-phenyl-1-methylethyl)phenyl hydrogen phosphate

reactant | disodium | [Na][Na] | 2Na
reactant | 4-dihydroxyphosphinyloxyphenyl 4-(1-phenyl-1-methylethyl)phenyl hydrogen phosphate | P(=O)(OC1=CC=C(C=C1)OP(=O)(O)O)(OC1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1)O | C21H22O8P2
product | sodium 4-(1-phenyl-1-methylethyl)phenyl 1-naphthyl phosphate | P(=O)(OC1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1)(OC1=CC=CC2=CC=CC=C12)[O-].[Na+] | InChI=1S/C25H23O4P.Na/c1-25(2,20-11-4-3-5-12-20)21-15-17-22(18-16-21)28-30(26,27)29-24-14-8-10-19-9-6-7-13-23(19)24;/h3-18H,1-2H3,(H,26,27);/q;+1/p-1
